### PR TITLE
fixes #531

### LINKED ISSUE #531: generalize `esum_fset_ninfty`?
https://github.com/math-comp/analysis/blob/cee236512dd5d39d3e2f385011947a223f0aabb9/theories/ereal.v#L728-L735

Wouldn't it be more general to provide this proof instead?
```
Lemma esum_seq_ninfty (R : numDomainType)
    (T : eqType) (s : seq T) (P : pred T) (f : T -> \bar R) :
  \sum_(i <- s | P i) f i = -oo <-> exists i, [/\ i \in s, P i & f i = -oo].
Proof.
split=> [|[i [si Pi fi]]]; last first.
  rewrite big_mkcond (bigID (xpred1 i))/= (eq_bigr (fun _ => -oo)); last first.
    by move=> j /eqP ->; rewrite Pi.
  rewrite big_const_seq/= [X in X + _](_ : _ = -oo)//.
  elim: s i Pi fi si => // h t ih i Pi fi.
  rewrite inE => /predU1P[<-/=|it]; first by rewrite eqxx.
  by rewrite /= iterD ih//=; case: (_ == _).
rewrite big_seq_cond; elim/big_ind: _ => // [[?| |] [?| |]//|].
by move=> i /andP[si Pi] fioo; exists i; rewrite si Pi fioo.
Qed.
```

### PR DESCRIPTION
**Pull request by affeldt-aist**
fixes #531

### CODE REVIEW

File: theories/ereal.v [hunk 1]
```diff
@@ -982,6 +992,9 @@ Proof. by move: x y => [?| |] [?| |]. Qed.
 Lemma daddooe x : x != +oo -> -oo + x = -oo.
 Proof. by case: x. Qed.
 
+Lemma daddeoo x : x != -oo -> x + +oo = +oo.
```
Comment (proux01) [inline theories/ereal.v:995]:
```suggestion
Lemma daddooe x : x != +oo -> -oo + x = -oo.
Proof. by case: x. Qed.

Lemma daddeoo x : x != +oo -> x + -oo = -oo.
```

File: theories/ereal.v [hunk 2]
```diff
@@ -725,35 +728,42 @@ Lemma adde_Neq_ninfty x y : x != +oo -> y != +oo ->
   (x + y != -oo) = (x != -oo) && (y != -oo).
 Proof. by move: x y => [x| |] [y| |]. Qed.
 
-Lemma esum_fset_ninfty
-    (T : choiceType) (s : {fset T}) (P : pred T) (f : T -> \bar R) :
+Lemma esum_seq_ninfty (T : eqType) (s : seq T) (P : pred T) (f : T -> \bar R) :
   \sum_(i <- s | P i) f i = -oo <-> exists i, [/\ i \in s, P i & f i = -oo].
```
Comment (proux01) [inline theories/ereal.v:732]:
```suggestion
Lemma esum_ninfty (T : eqType) (s : seq T) (P : pred T) (f : T -> \bar R) :
  \sum_(i <- s | P i) f i = -oo <-> exists i, [/\ i \in s, P i & f i = -oo].
```
IINM this is the most generic form, so I would drop the `seq` (same for the three others)

**Review by proux01 — APPROVED** [review]
LGTM

File: theories/ereal.v (hunk 2 above)
Comment (affeldt-aist) [reply theories/ereal.v:732]: Yes, but there is already a `esum_ninfty` lemma. :-/

Comment (proux01) [reply theories/ereal.v]: Maybe the current `esum_ninfty` lemma should be renamed to `esum_ord_ninfty`? (it doesn't seem to be widely used, so the renaming should be easy)
I would prefer the most generic lemma to have the shortest name.

Comment (affeldt-aist) [reply theories/ereal.v]: That's exactly what I did in the next commit. :-)

Comment (proux01) [reply theories/ereal.v]: That explains how you were so damn fast :laughing:

File: theories/ereal.v [hunk 3]
```diff
@@ -725,46 +728,53 @@ Lemma adde_Neq_ninfty x y : x != +oo -> y != +oo ->
...
+elim: s i Pi fi si => // h t ih i Pi fi.
+rewrite inE => /predU1P[<-/=|it].
+  rewrite big_cons Pi fi addooe//.
+  by apply/eqP => /esum_ninfty[j [jt /finoo/negbTE/eqP]].
+by rewrite big_cons; case: ifPn => Ph; rewrite (ih i)// addeoo// finoo.
 Qed.
 
-Lemma esum_pinfty n (f : 'I_n -> \bar R) : (forall i, f i != -oo) ->
+Lemma esum_ord_pinfty n (f : 'I_n -> \bar R) : (forall i, f i != -oo) ->
   (\sum_(i < n) f i == +oo) = [exists i, f i == +oo].
```
Comment (CohenCyril) [inline theories/ereal.v:770]: I agree this is better, but a more general version would be 
```suggestion
Lemma esum_pinfty (I : finType) (P : {pred I} (f : 'I_n -> \bar R) : (forall i, f i != -oo) ->
  (\sum_(i | P i) f i == +oo) = [exists i in P, f i == +oo].
```

Comment (CohenCyril) [reply theories/ereal.v:770]: And rename `esum_pinfty` to `esum_pinftyP` which is a `<->` lemma

Comment (affeldt-aist) [reply theories/ereal.v:770]: See PR #540 .
